* /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.asc
.subckt TNOT in vcc vee out
M1 N001 in vee vee NMOS
R1 out N001 10k
M2 N002 in vcc vcc PMOS
R2 out N002 10k
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.ends
