* /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.asc
.subckt TNOT in vcc vee out gnd
M1 N001 in vee vee NMOS
R1 out N001 10k
M2 N002 in vcc vcc PMOS
R2 out N002 10k
R3 out 0 100k
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.ends
